US04760136
Synthesis of β-(1-Pyrrolidinyl)-Propionic Acid (Used for Preparing Compound No. 9 and Compound No. 34)
In 5 ml of absolute methanol were dissolved 500 mg of acrylic acid and 800 mg of pyrrolidine, and the resulting solution was subjected to reaction with stirring at room temperature for 24 hours.

reactant | acrylic acid | 500 mg | C(C=C)(=O)O | C3H4O2
reactant | pyrrolidine | 800 mg | N1CCCC1 | C4H9N
solvent | methanol | 5 ml | CO | CH4O
product | β-(1-Pyrrolidinyl)-Propionic Acid | N1(CCCC1)CCC(=O)O | C7H13NO2
